US04711905
3.24 g (0.02 mol) of 3,4-dichloroaniline are dissolved in 60 ml of dry toluene, and 3.99 g (0.02 mol) of 2-chloro-4-fluoro-benzoyl isocyanate are added in the absence of moisture. The mixture is stirred for one hour at 80° C. and then cooled to 20°-25° C. The precipitate which separates out is filtered off under suction and dried in vacuo at 100° C. 6.8 g (94% of theory) of 1-(2-chloro-4-fluoro-benzoyl)-3-(3,4-dichlorophenyl)-urea of melting point 208° C. are obtained.

reactant | 3,4-dichloroaniline | 0.02 mol, 3.24 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | 2-chloro-4-fluoro-benzoyl isocyanate | 0.02 mol, 3.99 g | ClC1=C(C(=O)N=C=O)C=CC(=C1)F | C8H3ClFNO2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-chloro-4-fluoro-benzoyl)-3-(3,4-dichlorophenyl)-urea | 6.8 g, 94% | ClC1=C(C(=O)NC(=O)NC2=CC(=C(C=C2)Cl)Cl)C=CC(=C1)F | C14H8Cl3FN2O2
